US04129591
A mixture of 4.35 g of 3,3'-[(5-nitro-1,3-phenylene)bis(carbonylimino)]bis[2,7-naphthalenedisulfonic acid] tetrasodium salt in 100 ml of water is heated to 57° C. A 2.07 g portion of sodium sulfide nonahydrate is added and the reaction is allowed to cool. The reaction is reheated to 67° C. and allowed to cool. The mixture is filtered and the filtrate is acidified to pH 4 using acetic acid. The mixture is heated and then filtered with added diatomaceous earth. Upon cooling the filtrate yields a solid which is filtered, washed with 50% ethanol, absolute ethanol and finally with ether giving 3,3'-[(5-amino-1,3-phenylene)bis(carbonylimino)]bis[2,7-naphthalenedisulfonic acid] tetrasodium salt.

reactant | 3,3'-[(5-nitro-1,3-phenylene)bis(carbonylimino)]bis[2,7-naphthalenedisulfonic acid] tetrasodium salt | 4.35 g | [Na+].[Na+].[Na+].[Na+].[N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC=1C(=CC2=CC(=CC=C2C1)S(=O)(=O)[O-])S(=O)(=O)[O-])C(=O)NC=1C(=CC2=CC(=CC=C2C1)S(=O)(=O)[O-])S(=O)(=O)[O-]
reactant | sodium sulfide nonahydrate | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | 3,3'-[(5-amino-1,3-phenylene)bis(carbonylimino)]bis[2,7-naphthalenedisulfonic acid] tetrasodium salt | [Na+].[Na+].[Na+].[Na+].NC=1C=C(C=C(C1)C(=O)NC=1C(=CC2=CC(=CC=C2C1)S(=O)(=O)[O-])S(=O)(=O)[O-])C(=O)NC=1C(=CC2=CC(=CC=C2C1)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C28H21N3O14S4.4Na/c29-20-6-18(27(32)30-23-10-14-1-3-21(46(34,35)36)8-16(14)12-25(23)48(40,41)42)5-19(7-20)28(33)31-24-11-15-2-4-22(47(37,38)39)9-17(15)13-26(24)49(43,44)45;;;;/h1-13H,29H2,(H,30,32)(H,31,33)(H,34,35,36)(H,37,38,39)(H,40,41,42)(H,43,44,45);;;;/q;4*+1/p-4
